US07429565B2
2-({4-[6-Methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-2-methyl-but-2-enyl}-phenoxy-phosphinoyloxy)-propionic acid ethyl ester
To a solution of {4-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-2-methyl-but-2-enyl}-phosphonic acid monophenyl ester (25 mg, 0.048 mmol) and ethyl (S)-(−)-lactate (34 mg, 0.288 mmol) in pyridine (1 mL) was added PyBOP (125 mg, 0.24 mmol). The solution was stirred at room temperature for 16 hours and concentrated. The residue was purified by RP HPLC using a C18 column with a gradient of H2O, 0.1% TFA-acetonitrile, 0.1% TFA to provide 24 mg (83%) of the desired product. MS (m/z) 641 [M+Na]+.

reactant | {4-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-2-methyl-but-2-enyl}-phosphonic acid monophenyl ester | 0.048 mmol, 25 mg | C1(=CC=CC=C1)OP(O)(=O)CC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)OCC[Si](C)(C)C)C | C26H35O7PSi
reactant | ethyl (S)-(−)-lactate | 0.288 mmol, 34 mg | C([C@@H](O)C)(=O)OCC | C5H10O3
reactant | PyBOP | 0.24 mmol, 125 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | 2-({4-[6-Methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-2-methyl-but-2-enyl}-phenoxy-phosphinoyloxy)-propionic acid ethyl ester | 24 mg, 83% | C(C)OC(C(C)OP(=O)(OC1=CC=CC=C1)CC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)OCC[Si](C)(C)C)C)=O | C31H43O9PSi
